US07531553B2
Step A: 4-(3,4-Dinitro-phenoxy)-quinoline.
4-Chloroquinoline (4.3 g, 26.3 mmol) and 3,4-dinitrophenol (41.5 g, 24.4 mmol) were heated at 150° C. for 30 min. The mixture was cooled to RT and the residue was dissolved in CH2Cl2. The mixture was diluted in NaOH 2 M and extracted with CH2Cl2. The organic phase was dried, filtered and evaporated. The residue was diluted in EtOAc and filtered through a silica pad. The solvent was removed to give the title compound as a brown solid.

reactant | 4-Chloroquinoline | 26.3 mmol, 4.3 g | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | 3,4-dinitrophenol | 24.4 mmol, 41.5 g | [N+](=O)([O-])C=1C=C(C=CC1[N+](=O)[O-])O | C6H4N2O5
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | NaOH | 2 M | [OH-].[Na+]
product | 4-(3,4-Dinitro-phenoxy)-quinoline | [N+](=O)([O-])C=1C=C(OC2=CC=NC3=CC=CC=C23)C=CC1[N+](=O)[O-] | C15H9N3O5
